US04544746
A process is disclosed wherein 2,5-di(phenylamino) terephthalic acid is half-cyclized by dissolving it in a mixture of polyphosphoric acid and phosphoric acid and heating at 100°-120° C. to form 2-(phenyl)amino-3-carboxy-9(10H)acridone (ACA). The ACA is decarboxylated to form 2-(phenyl)amino-9(10H)acridone, also known as 2-anilinoacridone, by dissolving it in tetramethylene sulfone and heating in the presence of a basic cupric carbonate catalyst.

reactant | 2,5-di(phenylamino) terephthalic acid | C1(=CC=CC=C1)NC1=C(C(=O)O)C=C(C(=C1)C(=O)O)NC1=CC=CC=C1 | C20H16N2O4
solvent | phosphoric acid | P(O)(O)(O)=O | H3O4P
product | 2-(phenyl)amino-3-carboxy-9(10H)acridone | C1(=CC=CC=C1)NC1=CC=2C(C3=CC=CC=C3NC2C=C1C(=O)O)=O | C20H14N2O3
